US05280044
3-Chloro-2,2-dimethylpropionyl chloride (1.86 g) was added dropwise over 5 minutes to 4-amino-2-chloro-N,N-dimethylbenzamide (2.00 g) suspended in dry methylene chloride (40 ml) and dry triethylamine (1.21 g) with stirring, keeping the temperature below 10° C. After stirring for 1 hour and warming to room temperature, methylene chloride (40 ml) was added and the solution washed with 2M hydrochloric acid, saturated aqueous sodium bicarbonate and then saturated brine. The solution was then dried and evaporated to yield a sticky yellow solid which was recrystallised from ethyl acetate/chloroform to give 2-chloro-4-(3'-chloro-2',2'-dimethylpropionamido)-N,N-dimethylbenzamide, as a white crystalline solid (2.349 g) m.p. 179°-181° C.

reactant | 3-Chloro-2,2-dimethylpropionyl chloride | 1.86 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | 4-amino-2-chloro-N,N-dimethylbenzamide | 2.00 g | NC1=CC(=C(C(=O)N(C)C)C=C1)Cl | C9H11ClN2O
reactant | triethylamine | 1.21 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-(3'-chloro-2',2'-dimethylpropionamido)-N,N-dimethylbenzamide | ClC1=C(C(=O)N(C)C)C=CC(=C1)NC(C(CCl)(C)C)=O | C14H18Cl2N2O2
